US08686161B2
In one of the embodiments of the present invention, Perindopril acid is dissolved in suitable solvent is selected from mixture of water and organic solvent. The organic solvent is selected from alcohol such as ethanol, ketone such as acetone, ether such as 1,4-dioxane. (L)-Arginine is dissolved in water to get solution is added to the above solution followed by stirring and filtration to give polymorphic form γ of Perindopril (L)-Arginine.

reactant | ethanol | C(C)O | C2H6O
reactant | acetone | CC(=O)C | C3H6O
reactant | ether | CCOCC | C4H10O
reactant | (L)-Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
solvent | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Perindopril (L)-Arginine | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C19H32N2O5.C6H14N4O2/c1-4-8-14(19(25)26-5-2)20-12(3)17(22)21-15-10-7-6-9-13(15)11-16(21)18(23)24;7-4(5(11)12)2-1-3-10-6(8)9/h12-16,20H,4-11H2,1-3H3,(H,23,24);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t12-,13-,14-,15-,16-;4-/m00/s1
